US07253286B2
6-(4-Benzyloxyphenyl)-4-(1H-5-indolyloxy)-7H-pyrrolo[2, 3-d]pyrimidine
After dissolving 1.5 ml of tetrahydrofuran in 22 mg of 5-[6-(4-benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-indole-1-carboxylic ethylamide, a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran was added and the mixture was refluxed for 2 hours. After returning it to room temperature, water was added and the precipitated crystals were filtered out and subjected to silica gel column chromatography (hexane-ethyl acetate) to obtain 2 mg of the title compound.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | 5-[6-(4-benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]-indole-1-carboxylic ethylamide | 22 mg | C(C)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)N(C(=C2)C2=CC=C(C=C2)OCC2=CC=CC=C2)COCC[Si](C)(C)C | C36H39N5O4Si
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 6-(4-Benzyloxyphenyl)-4-(1H-5-indolyloxy)-7H-pyrrolo[2, 3-d]pyrimidine | 2 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC=2C=C3C=CNC3=CC2)N1 | C27H20N4O2
